US07550598B2
(Z)-4-(4-ethoxyquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one (0.033 g, 0.13 mmol) and 2-acetamido-5-aminopyridine (Matrix) (0.058 g, 0.38 mmol) were dissolved in ethanol (1.5 mL). The reaction mixture was heated to 180° C. using a microwave reactor for 6 hrs. The mixture was concentrated and purified by LC-MS to give the title compounds of Example 4 and Example 5.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | 0.13 mmol, 0.033 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 2-acetamido-5-aminopyridine | 0.38 mmol, 0.058 g | C(C)(=O)NC1=NC=C(C=C1)N | C7H9N3O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)-4-(4-ethoxyquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | C(C)OC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C15H15N3O2
